US07723529B2
Starting from 4-(bromomethyl)benzoic acid (5.0 g, 23.25 mmol) and pentafluorophenol (4.3 g, 23.25 mmol), applying the same procedure described in Preparation 2, 4-(bromomethyl)benzoic acid pentafluorophenyl ester (5.0 g, 56%) was obtained as an off white solid.

reactant | 4-(bromomethyl)benzoic acid | 23.25 mmol, 5.0 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | pentafluorophenol | 23.25 mmol, 4.3 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
product | 4-(bromomethyl)benzoic acid pentafluorophenyl ester | 5.0 g, 56% | FC1=C(C(=C(C(=C1OC(C1=CC=C(C=C1)CBr)=O)F)F)F)F | C14H6BrF5O2
